US08802670B2
Reductive amination of 3-formyl-4-methanesulfonyl-piperazine-1-carboxylic acid tert-butyl ester (160 mg) with dimethylamine hydrochloride (67 mg) according to General Procedure C followed by an aqueous work-up and purification on silica gave 3-dimethylaminomethyl-4-methanesulfonyl-piperazine-1-carboxylic acid tert-butyl ester (160 mg). This was treated with 2M HCl to give desired (1-methanesulfonyl-piperazin-2-ylmethyl)-dimethyl-amine dihydrochloride (140 mg).

reactant | 3-formyl-4-methanesulfonyl-piperazine-1-carboxylic acid tert-butyl ester | 160 mg | C(C)(C)(C)OC(=O)N1CC(N(CC1)S(=O)(=O)C)C=O | C11H20N2O5S
reactant | dimethylamine hydrochloride | 67 mg | Cl.CNC
product | 3-dimethylaminomethyl-4-methanesulfonyl-piperazine-1-carboxylic acid tert-butyl ester | 160 mg | C(C)(C)(C)OC(=O)N1CC(N(CC1)S(=O)(=O)C)CN(C)C | C13H27N3O4S
